US07338959B2
Methanesulfonic acid 4-{4-[(2-isopropylamino-1-methyl-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-phenyl ester hydrochloride
The title compound was prepared following the procedure of example 1 with N5-(2-chloropyrimidin-4-yl)-N2-isopropyl-N5,1-dimethyl-1H-benzimidazole-2,5-diamine (83 mg, 0.25 mmol) and methanesulfonic acid 4-amino-phenyl ester (47 mg, 0.25 mmol) as a white solid (45 mg, 35%). 1H NMR (300 MHz, d6-DMSO) δ 9.30 (s, 1H), 7.78-7.86 (m, 3H), 7.17-7.21 (m, 3H), 7.09 (d, J=1.5 Hz, 1H), 6.82 (dd, J=8.1 and 1.8 Hz, 1H), 6.51 (d, J=7.5 Hz, 1H), 5.67 (d, J=6.0 Hz, 1H), 4.05 (m, 1H), 3.52 (s, 3H), 3.43 (s, 3H), 3.31 (s, 3H), 1.24 (d, J=6.6 Hz, 6H) ppm. MS (ESI) m/z=482 [M+H]+.

reactant | N5-(2-chloropyrimidin-4-yl)-N2-isopropyl-N5,1-dimethyl-1H-benzimidazole-2,5-diamine | 0.25 mmol, 83 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC(C)C)C)C=C1)C | C16H19ClN6
reactant | methanesulfonic acid 4-amino-phenyl ester | 0.25 mmol, 47 mg | NC1=CC=C(C=C1)OS(=O)(=O)C | C7H9NO3S
product | Methanesulfonic acid 4-{4-[(2-isopropylamino-1-methyl-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-phenyl ester hydrochloride | Cl.C(C)(C)NC1=NC2=C(N1C)C=CC(=C2)N(C2=NC(=NC=C2)NC2=CC=C(C=C2)OS(=O)(=O)C)C | InChI=1S/C23H27N7O3S.ClH/c1-15(2)25-23-27-19-14-17(8-11-20(19)30(23)4)29(3)21-12-13-24-22(28-21)26-16-6-9-18(10-7-16)33-34(5,31)32;/h6-15H,1-5H3,(H,25,27)(H,24,26,28);1H
